US07776897B2
1-Benzyl-4-{1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclopentyl}piperidine (0.87 g) and 1-chloroethyl chlorocarbonate (0.24 ml) were reacted in methylene chloride (20 ml) at room temperature for 2.5 hours. The residue obtained by subjecting the reaction solution to evaporation under reduced pressure was heated and refluxed in methanol (20 ml). After concentration, dil. hydrochloric acid (30 ml) was added thereto and the whole washed with diethyl ether. After neutralization, the product was extracted with chloroform (20 ml×2) and the concentration residue was purified by silica gel column chromatography (methanol:chloroform=4:96) to obtain 4-{1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclopentyl}piperidine (0.553 g).

reactant | 1-Benzyl-4-{1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclopentyl}piperidine | 0.87 g | C(C1=CC=CC=C1)N1CCC(CC1)C1(CCCC1)C1=NN=C(N1C)C1=C(C=CC=C1)Cl | C26H31ClN4
reactant | 1-chloroethyl chlorocarbonate | 0.24 ml | C(OC(C)Cl)(=O)Cl | C3H4Cl2O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-{1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclopentyl}piperidine | 0.553 g | ClC1=C(C=CC=C1)C=1N(C(=NN1)C1(CCCC1)C1CCNCC1)C | C19H25ClN4
